US07115611B2
In analogy to the procedures described in example 26B] and 26C), 2-(4-aminomethyl-phenoxy)-2-methyl-propionic acid ethyl ester [PCT Int. Appl. (2002), WO 2002/096895A1] was reacted with [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid (example 26E]) to give 2-methyl-2-[4-({2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetylamino}-methyl)-phenoxy]-propionic acid ethyl ester, which was subsequently saponified to yield the title compound as colorless amorphous solid.

reactant | 2-(4-aminomethyl-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC=C(C=C1)CN)=O | C13H19NO3
reactant | [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid | CC1=NC(=CC=C1CC(=O)O)C1=CC=C(C=C1)C(F)(F)F | C15H12F3NO2
product | 2-methyl-2-[4-({2-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetylamino}-methyl)-phenoxy]-propionic acid ethyl ester | C(C)OC(C(C)(OC1=CC=C(C=C1)CNC(CC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)=O)C)=O | C28H29F3N2O4
